US09233985B2
Step 3: 5-allylcyclopent-2-enone
A stirred, ice cold (3° C.) solution of 2-allyl-5-(phenylselanyl)cyclopentanone, mixture of isomers (12.0 g, 43 mmol) in dichloromethane (200 mL) in a 1 L round bottomed-flask equipped for boil-over containment was treated with saturated aqueous ammonium chloride (45 mL), then dropwise with 30% aqueous hydrogen peroxide (22 mL), and slowly carefully warmed to room temperature. At approximately 20° C. a vigorous exotherm started, and the ice bath was re-applied. The mixture was cooled to room temperature and stirred for 1 h, then the solution was washed with water (100 mL), stirred with 10% aqueous sodium thiosulfate pentahydrate (75 mL) for 10 min, and separated. The organic solution was washed with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride (75 mL each), dried (Na2SO4), and concentrated to 30 mL volume. The solution was added to a silica gel column (˜400 cc) and eluted with dichloromethane to afford (after very gentle concentration of appropriate fractions) 5-allylcyclopent-2-enone (3.95 g, 75%) as a very pale yellow oil. NMR (CDCl3): δ 7.61 (m, 1 H), 6.12 (m, 1 H), 5.60-5.75 (m, 1 H), 4.90-5.05 (m, 2 H), 2.70-2.80 (m, 1H), 2.45-2.55 (m, 1 H), 2.30-2.40 (m, 2 H), 2.05-2.15 (m, 1 H).

reactant | 2-allyl-5-(phenylselanyl)cyclopentanone | C(C=C)C1C(C(CC1)[Se]C1=CC=CC=C1)=O | C14H16OSe
reactant | ammonium chloride | 45 mL | [Cl-].[NH4+]
reactant | hydrogen peroxide | 22 mL | OO | H2O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-allylcyclopent-2-enone | C(C=C)C1CC=CC1=O | C8H10O
